US04042617
3.0 Grams of isopropyl 2-hydroxy-3-(4-cyclohexylphenyl)-3-butenoate was dissolved in 50 ml of anhydrous isopropyl alcohol. Separately, 1.1 g of metalic potassium was dissolved in 100 ml of anhydrous isopropyl alcohol. The two solutions thus prepared were combined together, and the combined solution was refluxed for 20 minutes. To the solution was then added 2 ml of water, and the mixture was further refluxed for 5 minutes. Thereafter, the isopropyl alcohol was removed from the mixture by distillation under reduced pressure. The residue was charged with water, and insoluble matter was removed therefrom by extraction with ethyl acetate. The extraction mother liquor was acidified with hydrochloric acid and then extracted with ethyl acetate. The ethyl acetate layer was successively washed with water and saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The ethyl acetate was removed by distillation under reduced pressure to obtain crude crystals. The crude crystals were recrystallized from benzene-hexane to obtain 2.15 g of 3-methyl-3-(4-cyclohexylphenyl)-pyruvic acid, m.p. 100.6°-102.5° C. The yield was 83%.

reactant | isopropyl 2-hydroxy-3-(4-cyclohexylphenyl)-3-butenoate | OC(C(=O)OC(C)C)C(=C)C1=CC=C(C=C1)C1CCCCC1 | C19H26O3
reactant | potassium | 1.1 g | [K] | K
reactant | water | 2 ml | O | H2O
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 3-methyl-3-(4-cyclohexylphenyl)-pyruvic acid | 2.15 g, yield was 83% | CC(C(C(=O)O)=O)C1=CC=C(C=C1)C1CCCCC1 | C16H20O3
